US07312249B2
b. Preparation of 4-Bromo-1-ethoxymethoxy-2-ethylbenzene
24.5 g (121 mmol) of 4-bromo-2-ethylphenol are dissolved in 150 ml of DMF, and this solution is slowly added to a suspension of 5.3 g (133 mmol) of sodium hydride in 50 ml of DMF. The medium is stirred for 30 minutes, and then 12.4 ml (133 mmol) of ethoxymethyl chloride are added. The reaction medium is stirred for 4 hours at room temperature, and then poured into water and extracted with ethyl acetate. The organic phases are washed with water, and the residue obtained after drying and concentration is purified by chromatography on a silica column (eluent ethyl acetate 10/heptane 90). A yellow oil is obtained (m=25 g, y=80%)

reactant | 4-bromo-2-ethylphenol | 121 mmol, 24.5 g | BrC1=CC(=C(C=C1)O)CC | C8H9BrO
reactant | sodium hydride | 133 mmol, 5.3 g | [H-].[Na+]
reactant | ethoxymethyl chloride | 133 mmol, 12.4 ml | C(C)OCCl | C3H7ClO
reactant | water | O | H2O
solvent | DMF | 150 ml | CN(C)C=O | C3H7NO
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
product | 4-Bromo-1-ethoxymethoxy-2-ethylbenzene | BrC1=CC(=C(C=C1)OCOCC)CC | C11H15BrO2
